US04950668
Preparation of N-(4-tert-butylbenzyl)-4-chloro-1,3-dimethyl-5-pyrazole carboxamide
A mixture of 2.03 g of ethyl 4-chloro-1,3-dimethylpyrazole-5-carboxylate and 2.45 g of 4-tertbutylbenzylamine was heated at 200° C. for 4 hours under stirring. After cooling to room temperature, the reaction product was purified by silica gel column chromatography to obtain 2.24 g of the compound (No. 36) described in Table 1.

reactant | ethyl 4-chloro-1,3-dimethylpyrazole-5-carboxylate | 2.03 g | ClC=1C(=NN(C1C(=O)OCC)C)C | C8H11ClN2O2
reactant | 4-tertbutylbenzylamine | 2.45 g | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
product | N-(4-tert-butylbenzyl)-4-chloro-1,3-dimethyl-5-pyrazole carboxamide | 2.24 g | C(C)(C)(C)C1=CC=C(CNC(=O)C2=C(C(=NN2C)C)Cl)C=C1 | C17H22ClN3O
